US06723743B1
4-Phenyl-5-butyloxazole (140).
A mixture of α-bromohexanophenone (25.5 g, 0.1 mole), ammonium formate (22 g, 0.35 mole) and formic acid (110 mL) was refluxed with stirring for 3 h. The reaction mixture was poured onto ice and made basic with 10 N NaOH and extracted with ether. The organic layer was washed with water, dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 20% ethyl acetate in hexane. To provide the desired compound as an oil (8.3 g, 41 %); 1H NMR (δ, CDCl3, 400 MHz) 7.55 (m, 2H), 7.40 (s, 1H), 7.34 (dd, J=7,7 Hz, 2H), 7.22 (dd, J=7, 7 Hz, 1H), 2.74 (m, 2H), 1.6 (m, 2H), 1.30 (m, 2H), 0.84 (t, J=7 Hz, 3H) ppm.

reactant | α-bromohexanophenone | 0.1 mole, 25.5 g | BrC(C(=O)C1=CC=CC=C1)CCCC | C12H15BrO
reactant | ammonium formate | 0.35 mole, 22 g | C(=O)[O-].[NH4+]
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | formic acid | 110 mL | C(=O)O | CH2O2
product | 4-Phenyl-5-butyloxazole | 8.3 g, 41 % | C1(=CC=CC=C1)C=1N=COC1CCCC | C13H15NO
